US04866091
A solution of 4'-bromoacetyl-2'-(2,4-difluorophenoxy)methanesulfonanilide (2.5 g) and pyridine (526 mg) in dichloromethane (20 ml) was refluxed for 4 hours. The mixture was concentrated, and the residue was dissolved in water and washed with ethyl acetate. To the aqueous layer was added sodium bicarbonate, giving an amorphous powder. The powder 0.76 g) was dissolved in an ethanolic solution of hydrogen chloride. The residue obtained by evaporation of the solution was crystallized with ethyl acetate to give a powder of 1-[3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzoylmethyl]pyridinium chloride (0.75 g).

reactant | 4'-bromoacetyl-2'-(2,4-difluorophenoxy)methanesulfonanilide | 2.5 g | BrCC(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)OC1=C(C=C(C=C1)F)F | C15H12BrF2NO4S
reactant | pyridine | 526 mg | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | hydrogen chloride | Cl | ClH
product | 1-[3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzoylmethyl]pyridinium chloride | 0.75 g | [Cl-].FC1=C(OC=2C=C(C(=O)C[N+]3=CC=CC=C3)C=CC2NS(=O)(=O)C)C=CC(=C1)F | InChI=1S/C20H16F2N2O4S.ClH/c1-29(26,27)23-17-7-5-14(18(25)13-24-9-3-2-4-10-24)11-20(17)28-19-8-6-15(21)12-16(19)22;/h2-12H,13H2,1H3;1H
